US06987195B2
A four-necked flask, fitted with a mechanical stirrer, a thermometer and a nitrogen inlet was charged with 342.44 g (1.19 moles) of PPG-3 benzyl ether, a 221 g (1.13 moles) of myristic acid and 0.45 g of SnO. The mixture was heated to 220° C. The progress of the reaction was monitored by measuring the acid value of the reaction mixture over time. Once the acid value was stable, the mixture was cooled to 25° C. 0.9 g of 30% aqueous solution of H2O2 and 70 g of water were added, and the mixture was heated again to 75° C. The water was evaporated under vacuum, producing PPG-3 Benzyl Myristate as the major product.

reactant | benzyl ether | 1.19 moles, 342.44 g | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
reactant | myristic acid | 1.13 moles, 221 g | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | H2O2 | OO | H2O2
solvent | water | 70 g | O | H2O
product | Benzyl Myristate | C(CCCCCCCCCCCCC)(=O)OCC1=CC=CC=C1 | C21H34O2
